US08530486B2
7,8-dichloroquinazolin-2,4(1H,3H)-dione
Prepared according to general method C from 2-amino-3,4-dichlorobenzoic acid (2.23 g) and urea (6.49 g). Yield 2.18 g (87%) of a solid. 1H-NMR (DMSO-δ6) δ (ppm) 11.64 (br s, 1H), 10.87 (br s, 1H), 7.86 (d, J=8.5 Hz, 1H), 7.43 (d, J=8.5 Hz, 1H).

reactant | 2-amino-3,4-dichlorobenzoic acid | 2.23 g | NC1=C(C(=O)O)C=CC(=C1Cl)Cl | C7H5Cl2NO2
reactant | urea | 6.49 g | NC(=O)N | CH4N2O
product | 7,8-dichloroquinazolin-2,4(1H,3H)-dione | ClC1=CC=C2C(NC(NC2=C1Cl)=O)=O | C8H4Cl2N2O2
